US09126998B2
2-Amino-4-fluoropyridin-3-ol
Under argon, 90 mg (0.57 mmol) of 4-fluoro-2-nitropyridin-3-ol Example 266A were dissolved in 30 ml of ethanol, a spatula tip of 10% palladium on activated carbon was added and the mixture was hydrogenated under atmospheric pressure at RT for 1.5 h. The mixture was then filtered off through silica gel and the filter cake was washed with a lot of ethanol. The solution was concentrated and dried. This gave 56 mg (77% of theory) of the title compound.

reactant | 4-fluoro-2-nitropyridin-3-ol | 0.57 mmol, 90 mg | FC1=C(C(=NC=C1)[N+](=O)[O-])O | C5H3FN2O3
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | palladium on activated carbon | [Pd] | Pd
product | 2-Amino-4-fluoropyridin-3-ol | NC1=NC=CC(=C1O)F | C5H5FN2O
